US07052742B1
(4-Fluoro-5-propyl-thiophen-2-yl)methyl 4-(5-undecyl-pyrimidin-2-yl)phenyl ether
A fully reacted mixture of equimolar amounts of diethyl azodicarboxylate and triphenylphosphine in THF is admixed with equimolar amounts of 4-(5-undecyl-pyrimidin-2-yl)phenol and 4-fluoro-5-propyl-thiophen-2-yl-methanol (prepared by LiAlH4 reduction of methyl 4-fluoro-5-propyl-thiophene-2-carboxylate). After 24 h at room temperature the mixture is evaporated to dryness under reduced pressure. Purification by chromatography (silica gel, dichloromethane) and recrystallization affords the target compound.

reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-(5-undecyl-pyrimidin-2-yl)phenol | C(CCCCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C21H30N2O
reactant | 4-fluoro-5-propyl-thiophen-2-yl-methanol | FC=1C=C(SC1CCC)CO | C8H11FOS
solvent | THF | C1CCOC1 | C4H8O
product | (4-Fluoro-5-propyl-thiophen-2-yl)methyl 4-(5-undecyl-pyrimidin-2-yl)phenyl ether | C(CCCCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)OCC=1SC(=C(C1)F)CCC | C29H39FN2OS
